US08022223B2
Step C: Preparation of 3-(phenylthio)-N-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine dihydrochloride:
Tert-butyl 4-(5-(3-(phenylthio)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate was dissolved in 1:1 CH2Cl2:methanol (4 mL) and 4N HCl in dioxane added (2 mL) and stirred at ambient temperature for 1 hour. The solvent was removed and placed on high vacuum to afford the title compound (100 mg, 89.6% yield) as a yellow solid. 1H NMR (d6-DMSO) δ 8.70 (m, 2H), 8.20 (m, 3H), 7.95 (m, 1H), 7.40 (m, 5H), 3.80-3.05 (m, 9H). Mass spectrum (apci) m/z=535.2 (M+H-3HCl).

reactant | Tert-butyl 4-(5-(3-(phenylthio)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)piperidine-1-carboxylate | C1(=CC=CC=C1)SC=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC2=NC(=NS2)C2CCN(CC2)C(=O)OC(C)(C)C | C30H30N6O2S4
reactant | methanol | 4 mL | CO | CH4O
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(phenylthio)-N-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine dihydrochloride | 100 mg, 89.6% yield | Cl.Cl.C1(=CC=CC=C1)SC=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC2=NC(=NS2)C2CCNCC2 | InChI=1S/C25H22N6S4.2ClH/c1-2-4-17(5-3-1)33-21-14-18(34-20-8-12-27-19-9-13-32-22(19)20)15-28-24(21)30-25-29-23(31-35-25)16-6-10-26-11-7-16;;/h1-5,8-9,12-16,26H,6-7,10-11H2,(H,28,29,30,31);2*1H
